US09024027B2
Step 1: Preparation of methyl 2-(5-methoxy-1H-indol-1-yl)acetate (43)
To a solution of 5-methoxy-1H-indole (500 mg, 3.40 mmol) in dry DMF (8 ml), cooled at 0° C., sodium hydride (60% w/w dispersion in mineral oil, 136 mg, 3.40 mmol) was slowly added portionwise and the reaction was stirred at 0° C. for 45 minutes; then methyl 2-bromoacetate (315 μl, 3.40 mmol) was added dropwise, and the reaction was stirred at room temperature for 15 hours. Water was slowly added, and the product was extracted with Et2O and then with ethyl acetate. The combined organic layers were washed with water, dried over Na2SO4 and evaporated to dryness. The title compound was obtained and used for the next step without further purification (745 mg, 3.40 mmol, quantitative yield). MS/ESI+ 220.1 [MH]+.

reactant | 5-methoxy-1H-indole | 3.40 mmol, 500 mg | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium hydride | 3.40 mmol, 136 mg | [H-].[Na+]
reactant | methyl 2-bromoacetate | 3.40 mmol, 315 μl | BrCC(=O)OC | C3H5BrO2
reactant | Water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | methyl 2-(5-methoxy-1H-indol-1-yl)acetate | quantitative yield | COC=1C=C2C=CN(C2=CC1)CC(=O)OC | C12H13NO3
